US05128355
To a solution of 0.98 g of a α-bromo-o-tolunitrile in 25 mL of dimethylformamide at 25° was added 1.40 g of triphenylphosphine. The mixture was stirred at 80° for 3 hours, then treated with 1.53 g of 1-(4-formylbenzyl)- 2-butyl-4-chloro-5-hydroxymethylimidazole, followed immediately by 0.54 g of sodium methoxide, and the mixture was diluted with water and extracted with benzene. The organic phases were combined and washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 0-20% ethyl acetate/benzene) afforded 0.45 g of 1-[(2'-cyano-trans-stilben-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole; NMR (200 MHz, CDCl3): δ 8.01 (d, 1h); 7.85 (d, 1h); 7.73 (t, 1h); 7.47 (t, 1h); 7.44 (AB, 2H, J=16.3); 7.38 (A2B2, 4H); 5.28 (s, 2H); 5.24 (t, 1H); 4.34 (d, 2H); 2.49 (t, 2H); 1.47 (quint., 2H); 1.24 (sext., 2H); 0.79 (t, 3H).

reactant | α-bromo-o-tolunitrile | 0.98 g | BrCC=1C(=CC=CC1)C#N | C8H6BrN
reactant | triphenylphosphine | 1.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(4-formylbenzyl)- 2-butyl-4-chloro-5-hydroxymethylimidazole | 1.53 g | C(=O)C1=CC=C(CN2C(=NC(=C2CO)Cl)CCCC)C=C1 | C16H19ClN2O2
reactant | sodium methoxide | 0.54 g | C[O-].[Na+]
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[(2'-cyano-trans-stilben-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 0.45 g | C(#N)C1=C(/C=C/C2=CC=C(C=C2)CN2C(=NC(=C2CO)Cl)CCCC)C=CC=C1 | C24H24ClN3O
